US06498166B1
vi) 4-[6-Bromo-2-(4-fluorophenyl)pyrazolo[1,5-a]pyridin-3-yl]benzenesulfonamide
A mixture of 4-[2-(4-fluorophenyl)pyrazolo[1,5-a]pyridin-3-yl]benzenesulfonamide (0.062 g 0.17 mmol) and bromine (0.03 g 0.17 mmol) in chloroform (3 ml) was heated under reflux for 24 hours. The reaction mixture was diluted with chloroform (20 ml), washed with M sodium thiosulphate (10 ml), water (10 ml) and dried. Removal of solvent gave a brown solid which was purified by SPE chromatography. Elution with cyclohexane/ethyl acetate (10/1) gave the title compound as a white solid (0.025 g 32%). MH+: 446, 448; NMR: (d6-acetone): δ 6.55 (2H, br) 7.05 (2H, t) 7.30 (1H, d) 7.45 (2H, d) 7.50 (2H, m) 7.55 (1H, d) 7.80 (2H, d) 8.80 (1H, s).

reactant | 4-[2-(4-fluorophenyl)pyrazolo[1,5-a]pyridin-3-yl]benzenesulfonamide | 0.17 mmol, 0.062 g | FC1=CC=C(C=C1)C1=NN2C(C=CC=C2)=C1C1=CC=C(C=C1)S(=O)(=O)N | C19H14FN3O2S
reactant | bromine | 0.17 mmol, 0.03 g | BrBr | Br2
solvent | chloroform | 3 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-[6-Bromo-2-(4-fluorophenyl)pyrazolo[1,5-a]pyridin-3-yl]benzenesulfonamide | 0.025 g, 32% | BrC=1C=CC=2N(C1)N=C(C2C2=CC=C(C=C2)S(=O)(=O)N)C2=CC=C(C=C2)F | C19H13BrFN3O2S
